US08664220B2
Step 1: 1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-pyrrolidin-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 4-phenyl-2-pyrollidinone.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 4-phenyl-2-pyrollidinone | C1C(CNC1=O)C2=CC=CC=C2 | C10H11NO
product | 1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-pyrrolidin-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1C(CC(C1)C1=CC=CC=C1)=O | C33H32N2O4
